US07858646B2
Synthesis of 2-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-isonicotinic acid methyl ester
Combine 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (500 mg, 1.67 mmol), 2-chloro-isonicotinic acid methyl ester (287 mg, 1.67 mmol) and cesium carbonate (762 mg, 2.34 mmol) in toluene (25 mL) and stir. Purge reaction vessel with argon. Add 2-(bicyclohexylphosphino)biphenyl (234 mg, 0.668 mmol), and tris(dibenzylideneacetone)dipalladium (153 mg, 0.167 mmol). Purge reaction vessel with argon. Heat to 110° C. After 18 hours, cool to ambient temperature. Add diethyl ether (25 mL) and filter. Concentrate filtrate under reduced pressure to dryness. Purify the resulting residue by flash chromatography eluting with ethyl acetate:hexanes to yield the title compound as a yellow solid (282 mg, 39%): 1H NMR (DMSO-d6) δ 0.86 (t, 3H), 1.52 (sextet, 2H), 2.57 (s, 3H), 2.63 (t, 2H), 3.88 (s, 3H), 5.25 (bs, 2H), 6.72 (d, 1H), 6.99 (d, 1H), 7.14 (d, 1H), 7.31 (t, 1H), 7.39 (s, 1H), 7.58 (d, 1H), 7.80 (d, 1H), 7.91 (s, 1H), 8.29 (d, 1H), 9.43 (s, 1H), 12.85 (s, 1H).

reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 1.67 mmol, 500 mg | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
reactant | 2-chloro-isonicotinic acid methyl ester | 1.67 mmol, 287 mg | COC(C1=CC(=NC=C1)Cl)=O | C7H6ClNO2
reactant | cesium carbonate | 2.34 mmol, 762 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.167 mmol, 153 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-isonicotinic acid methyl ester | 282 mg, 39% | COC(C1=CC(=NC=C1)NC1=CC(=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C25H26N2O5
